US04985565
1-Methyl-1-(isopropenoxy)silacyclobutane
In accordance with the general procedure of Example 1, when 1-chloro-1-methylsilacyclobutane and isopropenoxytrimethylsilane are reacted it is predicted that the title compound is obtained.

reactant | 1-chloro-1-methylsilacyclobutane | Cl[Si]1(CCC1)C | C4H9ClSi
reactant | isopropenoxytrimethylsilane | C(=C)(C)O[Si](C)(C)C | C6H14OSi
product | 1-Methyl-1-(isopropenoxy)silacyclobutane | C[Si]1(CCC1)OC(=C)C | C7H14OSi
